### PR TITLE
[Merged by Bors] - feat(Algebra/Algebra/Lie): max nilpotent ideal <= radical

### PR DESCRIPTION
**Pull request by jano-wol**
Show that max nilpotent ideal <= radical for Lie algebras
---
This PR establishes that the max nilpotent ideal is contained in the radical for Lie algebras.
A somewhat similar result is already presented in Nilpotent.lean, where it is shown that the center is contained in the max nilpotent ideal for Lie algebras.

This work is part of the framework:
https://github.com/orgs/leanprover-community/projects/17

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 1]
```diff
@@ -926,6 +926,12 @@ theorem coe_lcs_eq [LieModule R L M] :
     · rintro ⟨⟨x, hx⟩, m, hm, rfl⟩
       exact ⟨x, hx, m, hm, rfl⟩
 
+lemma isNilpotent_restricts_to_ideal (h : IsNilpotent L I) : LieRing.IsNilpotent I := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:929]:
```suggestion
instance [IsNilpotent L I] : LieRing.IsNilpotent I := by
```

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 2]
```diff
@@ -1001,6 +1007,13 @@ theorem LieIdeal.isNilpotent_iff_le_maxNilpotentIdeal [IsNoetherian R L] (I : Li
 theorem center_le_maxNilpotentIdeal : center R L ≤ maxNilpotentIdeal R L :=
   le_sSup (trivialIsNilpotent L (center R L))
 
+theorem maxNilpotentIdeal_le_radical : maxNilpotentIdeal R L ≤ radical R L := by
+  apply sSup_le_sSup
+  intro I hI
+  have h : IsNilpotent I I :=
+    LieIdeal.isNilpotent_restricts_to_ideal I hI
+  exact isSolvable_of_isNilpotent I
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Nilpotent.lean:1015]:
```suggestion
theorem maxNilpotentIdeal_le_radical : maxNilpotentIdeal R L ≤ radical R L :=
  sSup_le_sSup fun I (_ : IsNilpotent L I) ↦ isSolvable_of_isNilpotent I
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Please apply the suggestions and then feel free to merge :)

bors d+
